US08791102B2
DMSO (3.78 mmol, 0.268 mL) was added drop-wise to a flask charged with oxalyl chloride (0.165 mL, 1.89 mmol) and methylene chloride (4 mL) at −78° C. The mixture was stirred for 15 minutes and then (2S,4R)-1-(2-(1H-1,2,4-triazol-1-yl)acetyl)-N-(4-(4-fluorophenoxy)phenyl)-4-hydroxypyrrolidine-2-carboxamide (0.20 g, 0.47 mmol), prepared as in Reference 11, in methylene chloride (1 mL) was added via syringe. The reaction mixture then was stirred at 0° C. for 30 minutes and then quenched with triethylamine (2.0 mL, 15 mmol). The mixture was stirred for an additional 5 minutes and then saturated ammonium chloride (aq., 20 mL) was added. Product was purified from the organic layer by chromatography (EtOAc to EtOAc/MeOH (9:1)+1% NEt3) to give (S)-1-(2-(1H-1,2,4-triazol-1-yl)acetyl)-N-(4-(4-fluorophenoxy)phenyl)-4-oxopyrrolidine-2-carboxamide (0.11 g, 0.25 mmol, 53% yield) as an oil.

reactant | DMSO | 3.78 mmol, 0.268 mL | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 1.89 mmol, 0.165 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | (2S,4R)-1-(2-(1H-1,2,4-triazol-1-yl)acetyl)-N-(4-(4-fluorophenoxy)phenyl)-4-hydroxypyrrolidine-2-carboxamide | 0.47 mmol, 0.20 g | N1(N=CN=C1)CC(=O)N1[C@@H](C[C@H](C1)O)C(=O)NC1=CC=C(C=C1)OC1=CC=C(C=C1)F | C21H20FN5O4
reactant | triethylamine | 15 mmol, 2.0 mL | C(C)N(CC)CC | C6H15N
reactant | ammonium chloride | 20 mL | [Cl-].[NH4+]
solvent | methylene chloride | 1 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 4 mL | C(Cl)Cl | CH2Cl2
product | (S)-1-(2-(1H-1,2,4-triazol-1-yl)acetyl)-N-(4-(4-fluorophenoxy)phenyl)-4-oxopyrrolidine-2-carboxamide | 0.25 mmol, 0.11 g, 53% yield | N1(N=CN=C1)CC(=O)N1[C@@H](CC(C1)=O)C(=O)NC1=CC=C(C=C1)OC1=CC=C(C=C1)F | C21H18FN5O4
